US07875618B2
8-Chloro-1-cyclohexyl-3-methyl-5H-imidazo(1,5-a)quinoxalin-4-one
1.45 g 4-Chloro-2-(2-cyclohexyl-4-methyl-imidazol-1-yl)-aniline were stirred in 25 ml toluene. 1.0 g Carbonyldiimidazole was added and the mixture was refluxed for 6 hours. After cooling 25 ml water was added, the product was filtered off, washed with 20 ml water and 25 ml toluene and dried.

reactant | 4-Chloro-2-(2-cyclohexyl-4-methyl-imidazol-1-yl)-aniline | 1.45 g | ClC1=CC(=C(N)C=C1)N1C(=NC(=C1)C)C1CCCCC1 | C16H20ClN3
reactant | Carbonyldiimidazole | 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 25 ml | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-1-cyclohexyl-3-methyl-5H-imidazo(1,5-a)quinoxalin-4-one | ClC1=CC=C2NC(C=3N(C2=C1)C(=NC3C)C3CCCCC3)=O | C17H18ClN3O
